US07253195B2
2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic acid [5-(1,1-dimethyl-2-oxiranyl-ethyl)-[1,3,4]thiadiazol-2-yl]-amide
A mixture of 2-[2-(3,5-difluoro-phenyl)-acetylamino]-pentanoic acid [5-(1,1-dimethyl-but-3-enyl)-[1,3,4]thiadiazol-2-yl]-amide (196 mg, 0.45 mmol) and ˜60% pure m-chloroperbenzoic acid (109 mg, 0.45 mmol) in methylene chloride was stirred for 4 hr. The mixture was quenched with water, saturated Na2S2O3 and extracted with methylene chloride. The organic layer was washed with brine, separated, dried, and concentrated to give 114 mg of crude material with a mixture of desired title compound and undesired N-oxide and recovered starting material. The crude material was purified by HPLC and the title compound was isolated, LC-MS, RT=2.3 min, M=1=453.5.

reactant | 2-[2-(3,5-difluoro-phenyl)-acetylamino]-pentanoic acid [5-(1,1-dimethyl-but-3-enyl)-[1,3,4]thiadiazol-2-yl]-amide | 0.45 mmol, 196 mg | CC(CC=C)(C)C1=NN=C(S1)NC(C(CCC)NC(CC1=CC(=CC(=C1)F)F)=O)=O | C21H26F2N4O2S
reactant | m-chloroperbenzoic acid | 0.45 mmol, 109 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic acid [5-(1,1-dimethyl-2-oxiranyl-ethyl)-[1,3,4]thiadiazol-2-yl]-amide | CC(CC1OC1)(C)C1=NN=C(S1)NC(C(CCC)NC(CC1=CC(=CC(=C1)F)F)=O)=O | C21H26F2N4O3S
